US05631257
1-Allyl-1-methyl-4-(6-nitrobenzoxazol-2-yl)piperazinium iodide
Under cooling with ice, 50 mg of 2-(4-methyl-1-piperazinyl)-6-nitrobenzoxazole dissolved in 5 ml of DMF was mixed with 0.021 ml of allyl iodide, and the reaction was carried out for 1 hour at the same temperature and then for 19 hours at room temperature. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was purified by Sephadex LH-20 (Pharmacia) (chloroform:methanol=1:1) to obtain 67 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-6-nitrobenzoxazole | 50 mg | CN1CCN(CC1)C=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C12H14N4O3
reactant | allyl iodide | 0.021 ml | C(C=C)I | C3H5I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Allyl-1-methyl-4-(6-nitrobenzoxazol-2-yl)piperazinium iodide | 67 mg | [I-].C(C=C)[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-])C | InChI=1S/C15H19N4O3.HI/c1-3-8-19(2)9-6-17(7-10-19)15-16-13-5-4-12(18(20)21)11-14(13)22-15;/h3-5,11H,1,6-10H2,2H3;1H/q+1;/p-1
